US04002615
Preparation of 3,7-dimethyl-2,6-octadien-1-yl-(2-pyridyl) methylether.
To a mixture of 18.6 g. (0.20 moles) 2-hydroxymethylpyridine in dry DMF is added, in small portions, 8.8 g. of sodium hydride (60% in oil), and the mixture is stirred for one hour at 60° C. Then 34.6 g. (0.2 moles) geranylchloride is added and the reaction mixture is stirred overnight at 50°-60° C. 200 ml. of water is added to the reaction mixture, which then is extracted with ethyl ether. After separation the organic layer is washed with a 10% KOH solution and then with water until neutral. The extract is dried over anhydrous Na2SO4, and the solvent is removed in vacuo. The yield was 36.5 g. of the crude ether, which was purified on silica gel as described below. The actual compound have nD24 : 1.5048.

reactant | 2-hydroxymethylpyridine | 0.20 moles | OCC1=NC=CC=C1 | C6H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | geranylchloride | 0.2 moles | C(\C=C(/C)\CCC=C(C)C)Cl | C10H17Cl
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3,7-dimethyl-2,6-octadien-1-yl-(2-pyridyl) methylether | CC(=CCC(C1=NC=CC=C1)OC(CC=C(CCC=C(C)C)C)C1=NC=CC=C1)CCC=C(C)C | C32H44N2O
